US07981874B2
4-(5,5-Dimethyl-2-oxo-2λ5-[1,3,2]dioxaphosphinan-2-ylmethyl)-benzoic acid.
4-(5,5-Dimethyl-2-oxo-2λ5-[1,3,2]dioxaphosphinan-2-ylmethyl)-benzoic acid methyl ester (0.23 g, 0.75 mmol) was made 0.25 M in dioxane and to this stirring solution was added 3 N aq LiOH (0.05 g, 2.26 mmol). The resulting mixture was stirred at ambient temperature for 4 hours. The reaction mixture was concentrated in vacuo and carried directly onto subsequent coupling without further purification: MS: cal'd 285 (MH+), exp 285 (MH+).

reactant | 4-(5,5-Dimethyl-2-oxo-2λ5-[1,3,2]dioxaphosphinan-2-ylmethyl)-benzoic acid methyl ester | 0.75 mmol, 0.23 g | COC(C1=CC=C(C=C1)CP1(OCC(CO1)(C)C)=O)=O | C14H19O5P
reactant | LiOH | 2.26 mmol, 3 N, 0.05 g | [Li+].[OH-]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(5,5-Dimethyl-2-oxo-2λ5-[1,3,2]dioxaphosphinan-2-ylmethyl)-benzoic acid | CC1(COP(OC1)(=O)CC1=CC=C(C(=O)O)C=C1)C | C13H17O5P
